US04483868
(E) 4-(3,4-methylenedioxyphenyl)-4-oxo-2-butenoic acid
44 g of glyoxylic acid, 50 wt.% in water, are heated under reduced pressure to eliminate the major part (80%) of the water present; there are then introduced into the reaction medium 49.2 g of 3',4'-methylenedioxy-acetophenone, and 100 cm3 of acetic acid.

reactant | glyoxylic acid | 44 g | C(C=O)(=O)O | C2H2O3
reactant | 3',4'-methylenedioxy-acetophenone | 49.2 g | C1OC=2C=C(C=CC2O1)C(C)=O | C9H8O3
reactant | acetic acid | 100 cm3 | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(3,4-methylenedioxyphenyl)-4-oxo-2-butenoic acid | C1OC=2C=C(C=CC2O1)C(C=CC(=O)O)=O | C11H8O5
